US09120728B2
3-chloro-5-methylsulfonyl-phenol
Preparation according to Preparation 1: 3-bromo-5-chlorophenol (4.0 g, 19.3 mmol), sodium methanesulfinate (3.1 g, 28.9 mmol), cupper(I)iodide (2.2 g, 11.5 mmol), L-proline (2.7 g, 23.1 mmol), potassium carbonate (1.6 g, 11.6 mmol), dry dimethyl sulfoxide (70 ml). Yield: 3.7 g (92%). MS m/z (relative intensity, 70 eV) 206 (M+, 88), 191 (36), 144 (58), 127 (bp), 99 (76).

reactant | 3-bromo-5-chlorophenol | 19.3 mmol, 4.0 g | BrC=1C=C(C=C(C1)Cl)O | C6H4BrClO
reactant | sodium methanesulfinate | 28.9 mmol, 3.1 g | CS(=O)[O-].[Na+]
reactant | L-proline | 23.1 mmol, 2.7 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 3-chloro-5-methylsulfonyl-phenol | ClC=1C=C(C=C(C1)S(=O)(=O)C)O | C7H7ClO3S
